US07375101B2
N-(7-Fluoro-2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-N′-[2-methyl-4-(4-morpholinyl)phenyl]thiourea
As illustrated in the scheme above, a solution of 3-amino-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one (0.0056 g, 0.020 mmol) and 4-(4-isothiocyanato-3-methylphenyl)morpholine (0.0048 g, 0.020 mmol) in DMA (0.5 mL) was heated at 70° C. for 16 h. The reaction was cooled and concentrated in vacuo, and the residue was lyophilized to provide the title compound (0.0104 g, quantitative). 1H-NMR (CDCl3): δ 7.63-7.58 (m, 2H), 7.50-7.45 (m, 1H), 7.44-7.36 (m, 4H), 7.36-7.26 (m, 3H), 7.09 (dd, J=2.4 Hz, J=8.4 Hz, 1H), 6.85-6.78 (m, 2H), 6.09-6.05 (m, 1H), 3.90-3.83 (br m, 4H), 3.41 (s, 3H), 3.21-3.15 (br s, 4H), 2.36 (s, 3H). MS (ESI) (M+H)+=518.HRMS calculated for (C28H28FN5O2S+H) (M+H)+: 518.2026. Found (ESI): 518.2117.

reactant | 3-amino-7-fluoro-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | 0.020 mmol, 0.0056 g | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)F)C)=O | C16H14FN3O
reactant | 4-(4-isothiocyanato-3-methylphenyl)morpholine | 0.020 mmol, 0.0048 g | N(=C=S)C1=C(C=C(C=C1)N1CCOCC1)C | C12H14N2OS
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | N-(7-Fluoro-2,3-dihydro-1-methyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl)-N′-[2-methyl-4-(4-morpholinyl)phenyl]thiourea | 0.0104 g | FC=1C=CC2=C(C(=NC(C(N2C)=O)NC(=S)NC2=C(C=C(C=C2)N2CCOCC2)C)C2=CC=CC=C2)C1 | C28H28FN5O2S
